US05374606
A solution of ethyl 3-amino-4-chloro-2-(methylsulphenylmethyl)benzoate (50 g) in ethanol was added to a stirred suspension of Raney Nickel (300 g) in ethanol. After stirring overnight at room temperature, a further addition of Raney Nickel was made and the mixture stirred for 2 hours. Water was added, the mixture filtered and the residue washed with dichloromethane. The filtrate was evaporated, re-extracted with ethyl acetate, dried (magnesium sulphate) and evaporated to give ethyl 3-amino-4-chloro-2-methylbenzoate (29.7 g) as a brown oil, NMR (CDCl3) 1.25 (t,3H), 2.25 (s,3H), 4.3 (q,2H), 7.05 (m,2H).

reactant | ethyl 3-amino-4-chloro-2-(methylsulphenylmethyl)benzoate | 50 g | NC=1C(=C(C(=O)OCC)C=CC1Cl)CSC | C11H14ClNO2S
reactant | Water | O | H2O
solvent | ethanol | C(C)O | C2H6O
catalyst | Raney Nickel | 300 g | [Ni] | Ni
product | ethyl 3-amino-4-chloro-2-methylbenzoate | 29.7 g | NC=1C(=C(C(=O)OCC)C=CC1Cl)C | C10H12ClNO2
